Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
altered mental status, hemiplegia

 
Major Surgical or Invasive Procedure:
endotracheal intubation

 
History of Present Illness:
Ms. ___ is a ___ woman with a history of endometrial 
cancer with recently discovered poorly differentiated lesion to 
the right femur, s/p open reduction internal fixation on 
___ on prophylactic lovenox therapy presented with altered 
mental status and hemiplegia.  ___ was found at her facility 
tonight unreponsive and hemiparetic on the left with severe 
weakness, was at her baseline two hours prior.  
.
Of note patient was recently hospitalized from ___ 
with episode of chest pain.  No clear source was identified, 
however patient was noted to new metastatic lesions of the lung, 
femur, and adrenals on imaging.  She was noted to have 
hypercalcemia which was managed with pamidronate.  She completed 
her outpt workup for RLE mass which underwent open reduction and 
internal fixation.  She was subsquently started on carboplatin, 
received one dose, with plans to follow up as outpt for 
___ tx.  She subsquently underwent 5 rounds of radiation 
tx to her right femur for pain control.  Palliative care was 
also consulted for assistance with pain management.  
.
In the ___ ED, vital signs were stable.  Pt was noted to be 
drowsy with left sided hemiplegia, tachycardia, and RLE edema.  
Exam with L sided weakness, with some resistance to gravity.   
She was able to follow simple commands, alert and oriented to 
self and month. Code stroke was called at 2:53A. Due to initial 
concern for septic emboli from her surgical site she was treated 
with 1gm Vancomycin.  CT head demonstrated multiple hyperdense 
lesions with surrounding edema thought to be hemorrhagic 
conversion of mets. Neurology will follow.  Ortho also consulted 
for evaluation of RLE edema, thought to be related to recent 
surgery.  RLE Xray with no acute pathology. ___ showed no DVT, 
CTA also ruled out PE.  Compartment syndrome was thought to be 
highly unlikely.  Vital signs on transfer HR 116 BP163/97 O2 sat 
100% RA.
.
.  
On the floor, pt is very somnulant and not able to respond to 
questions. 

 
Past Medical History:
Onc: 
- TAH/BSO/Lymphadenectomy on ___ that revealed FIGO stage I, 
grade ___ endometrioid carcinoma. 
- Imaging from ___: bilateral hilar adenopathy up to 2cm, 
right adrenal nodule, multiple bilateral lesions in the kidneys, 
a 1.4 cm subcutaneous soft tissue nodule in the right inguinal 
region, andmultiple 1-cm right inguinal lymph nodes. 5X5X22 cm 
right distal femoral mass with soft tissue extension. 
- Femoral mass pathology poorly differentiated carcinoma 
"compatible with" endometrial carcinoma. 

-Hypertension
-Hypercholesterolemia 
-DM  
-Back surgery on L5/S1 in ___

 
Social History:
___
Family History:
The patient's father died from cancer (type unknown). She has no 

family history of clotting disorders or heart disease.
 
Physical Exam:
ADMISSION EXAM:
Vitals: T:100.1 BP:109 P:121/86 R:21 O2:100% RA  
General: obtunded, unresponsive to sternal rub, nailbed pressure 
 
HEENT: Sclera anicteric, pupils small but reactive bilaterally,  
resists passive eye opening on the right, but not on the left.  
mouth open.  oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation anteriorly, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU:  foley in place  
Ext: warm, well perfused, 2+ pulses. RLE warm, nonerythemetous, 
twice the size of LLE, but edema nonpitting.  small well healing 
incisions, at the right trochanter and right lateral femoral 
head. 
Neuro: pupils reactive, unable to assess other cranial nerves as 
pt not responsive, left facial droop. minimal to absent gag 
reflex. has tone in the RUE, protects arm when dropped, makes 
some spontaneous movements of the hand and arm. LUE flaccid.  no 
posturing.  reflexes minimal bilaterally.  babinski equivocal 
bilaterally.
.
DISCHARGE EXAM
General: More responsive this AM, able to follow commands 
HEENT: Sclera anicteric, pupils small but reactive bilaterally,  
oropharynx clear  
Lungs: Clear to auscultation anteriorly, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU:  foley in place  
Ext: warm, well perfused, 2+ pulses. RLE warm, nonerythemetous, 
twice the size of LLE, but edema nonpitting.  small well healing 
incisions, at the right trochanter and right lateral femoral 
head. 
Neuro: pupils reactive, strength is ___ on the right UE.  Is not 
moving RLE due to pain.  Cannot move left side. Facial droop on 
left.

 
Pertinent Results:
ADMISSION LABS:
___ 01:20AM BLOOD WBC-23.8* RBC-4.44 Hgb-11.5* Hct-33.2* 
MCV-75* MCH-25.9* MCHC-34.6 RDW-16.4* Plt ___
___ 01:20AM BLOOD Neuts-86.6* Lymphs-9.4* Monos-3.4 Eos-0.3 
Baso-0.3
___ 01:20AM BLOOD ___ PTT-35.0 ___
___ 07:31AM BLOOD Glucose-153* UreaN-26* Creat-1.1 Na-135 
K-4.5 Cl-100 HCO3-22 AnGap-18
___ 07:31AM BLOOD ALT-3 AST-20 AlkPhos-166* TotBili-0.2
___ 07:31AM BLOOD Albumin-3.4* Calcium-8.8 Phos-2.8 Mg-2.3
___ 07:31AM BLOOD TSH-0.56
___ 01:40AM BLOOD Glucose-148* Na-136 K-4.4 Cl-97 
calHCO3-24
___ 04:17AM BLOOD Lactate-1.7
.
No Labs obtained on discharge.
.
EEG:
This is an abnormal continuous ICU video EEG study because of 
diffusely suppressed and slow background indicative of a 
moderate to severe encephalopathy. The frontally predominant 
delta frequency activity can be seen in toxic/metolic 
disturbances, but may also be seen in midline or subcortical 
dysfunction, including hydrocephalus. Thus, clinical correlation 
is recommended. No epileptiform discharges or electrographic 
seizures were present in the record. A note was made of sinus 
tachycardia and occasional premature wide complex beats.
.
CT head:
IMPRESSION: Multiple hyperdense masses involving both the 
superficial and 
deep white matter and deep gray matter, with an area of 
vasogenic edema in the left occipital lobe. Differential 
diagnosis is broad, though findings are most likely secondary to 
hemorrhagic metastases given the clinical history. Other 
possibilities, though less likely include hemorrhagic infarcts 
secondary to dural venous or cortical venous thrombosis, 
spontaneous hemorrhage from complication of anticoagulation 
(given the recent history of orthopedic surgery), lymphoma or 
infection. Further characterization with MRI of the brain is 
recommended 

 
Brief Hospital Course:
Mrs ___ is a ___ y/o f with metastatic poorly differentiated 
carcinoma who was admitted for AMS and new left hemiplegia found 
to be likely d/t newly diagnosed malignant metastases to brain 
(multiple lesions) with hemorrhage into right thalamic lesion. 
After consultation with the oncology team and patient's family 
decision was made to focus care on comfort and patient was 
discharged home with hospice. 

 

ALTERED MENTAL STATUS (AMS) – patient was transientently 
intubatied for airway protection to allow for disgnostic 
testing.  Attributed to multiple brain mets, some with 
complication of bleeding, and surrounding vasogenic edema.  No 
clinical or EEG evidence for active seizures.  Treated with oral 
steroids and prophylactic anti-convulsant.

 

BRAIN LESIONS – Not previously recognized.  Likely metastatic 
disease from her known poorly differentiated CA of uncertain 
primary.  Evidence for hemorrhage into lesions per CT. Per our 
oncology team no further theraputic or palliative 
chemo/radiation can be offered that would be of benefit to the 
patient.  
 

HEMIPLEGIA, LEFT – likely ___ to acute bleed into brain 
mets(consistent with right thalamic lesion and hemmorage seen on 
CT). Repeat Head CT without significant change.  

CARCINOMA – metastatic poorly differentiated, unclear etiology.  
Per oncology team no plans for further chemotherapy.  

 

RIGHT LEG SWELLING – recent orthopedic surgery ORIF.  No further 
interventions with Orthopedic service.  No evidence for DVT by 
___.

 

Goals of care: meeting was held with patient's family, ICU and 
Oncology team, per patient's dire condition and family's wishes 
decision to transition to comfort focused care. Patient was 
followed by palliative care and is now dicharged to out patient 
hospice.

 

DISPOSITION --  returned home with hospice services.

 
Discharge Medications:
1. methadone in 0.9 % sod. chlor 1 mg/mL (1 mL) Syringe Sig: 0.6 
mg per hour Intravenous  continuous via CADD pump: + Bolus 0.2mg 
every 20 minutes PRN breakthrough pain

.
Disp:*10 100ml vials* Refills:*0*
2. insulin glargine 100 unit/mL (3 mL) Insulin Pen Sig: Fourteen 
(14) units Subcutaneous at bedtime.
Disp:*30 ml * Refills:*0*
3. One Touch Ultra System Kit     Kit Sig: One (1) kit 
Miscellaneous four times a day.
Disp:*1 kit* Refills:*0*
4. Dilaudid concentrate (20mg/ml)   Sig: ___ mL Sublingual 
q2hr as needed for pain/respiratory distress: Please use 0.5-1mL 
(___) q2 hours sublinguially PRN for pain or respiratory 
distress.
Disp:*60 mL* Refills:*0*
5. Ativan liquid (2mg/ml)  Sig: 0.5 ml Sublingual every six (6) 
hours: Please use 1mg (0.5ml) sublingually q6hrs. ___ hold for 
sedation.
Disp:*30 mL* Refills:*0*
6. bisacodyl 10 mg Suppository Sig: One (1) suppository Rectal 
once a day: ___ hold for loose stools.
Disp:*30 suppositories* Refills:*0*
7. acetaminophen 650 mg Suppository Sig: One (1) suppository 
Rectal every six (6) hours as needed for fever or pain.
Disp:*30 suppositories* Refills:*2*
8. sodium chloride 0.9 % 0.9 % Parenteral Solution Sig: One (1) 
liter Intravenous q nightly: Please run 1 Liter nightly at 
100ml/hr over 10 hours.
Disp:*7 liters* Refills:*2*
9. dexamethasone oral solution (10mg/ml)  Sig: One (1) ml 
Sublingual every eight (8) hours: Please place 1ml sublingual q8 
hours.
Disp:*60 ml* Refills:*0*
10. supplies
Please supply with One Touch Ultra testing strips. Dispense 100 
strips, no refills
11. One Touch UltraSoft Lancets     Misc Sig: One (1) lancet 
Miscellaneous every six (6) hours.
Disp:*100 lancets* Refills:*0*
12. Normal Saline Flush 0.9 % Syringe Sig: Ten (10) cc Injection 
five times a day as needed for IV flush: 10cc flush to IV site 
PRN.
Disp:*30 syringes* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
metastatic brain cancer

Secondary:
endometrial cancer

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted because you were found 
unresponsive and with trouble moving the left side of your body. 
You had a head CT scan here that showed multiple areas of cancer 
in the brain. You were initially intubated to support your 
breathing but the breathing tube was quickly removed and you 
have been breathing well on your own. With the help of your 
family, we have arranged for you to be able to go home and be 
comfortable.

Please take the following medications:
1. Please use a methadone pump at 0.6 mg per hour Intravenous 
continuous infusion via CADD pump: + Bolus 0.2mg every 20 
minutes as needed for breakthrough pain
2. Please check blood sugars daily and give glargine 14 units 
for blood sugars >200. Please do not give if sugars are <200.
3. Please use Dilaudid for breakthrough pain control. Use ___ 
ml under the tongue as needed for pain every 2 hours.
4. Please use ativan to prevent seizures. Place 0.5ml under the 
tongue every 6 hours. This may be held if Ms. ___ is too 
sedated and sleepy.
5. Please use bisacodyl 10 mg Suppository daily. This should be 
held for loose stools.
6. Use acetaminophen 650 mg Suppository every 6 hours as needed 
for fever or pain.
7. Take dexamethasone 1mL under the tongue every 8 hours.
8. Please take 1 liter of fluid (normal saline) nightly, to be 
run at 100cc/hr for 10 hours. 
 
Followup Instructions:
___